US05162322
Tetrahydro-N-phenyl-2H-pyran-2-methanamine.
A mixture of 2-(bromomethyl)tetrahydro-2H-pyran (100 g, 0.558 mol) and aniline (155.96 g, 1.67 mol) was heated at 100° C. under nitrogen overnight and cooled to room temperature. A 3N hydrochloric acid solution (400 mL) was added and the aqueous layer was washed three times with isopropyl ether. The aqueous layer was made basic with 50% sodium hydroxide solution, and the product was extracted three times into isopropyl ether. The combined organic extracts were washed once with water and evaporated under reduced pressure. The resulting oil was poured into water (1400 mL) and stirred. The water was decanted and water (1500 mL) was again added. The aqueous layer was again decanted and the oil was triturated again in water (1500 mL) to give a solid, which was recrystallized from methanol/water and dried under high vacuum to give 78.5 g of product containing one mole of water (67% yield). A 2.0 g portion was recrystallized from methanol/water and dried under high vacuum to give 0.71 g, mp 55°-58° C.

reactant | 2-(bromomethyl)tetrahydro-2H-pyran | 0.558 mol, 100 g | BrCC1OCCCC1 | C6H11BrO
reactant | aniline | 1.67 mol, 155.96 g | NC1=CC=CC=C1 | C6H7N
solvent | hydrochloric acid | 3N, 400 mL | Cl | ClH
product | Tetrahydro-N-phenyl-2H-pyran-2-methanamine | 78.5 g | C1(=CC=CC=C1)NCC1OCCCC1 | C12H17NO
